US08431695B2
Intermediate K K: Preparation of 1-(2-chloroethyl)pyrrolidine hydrochloride
2-pyrrolidin-1-ylethanol (6.24 g, 0.05 mol) was stirred while cautiously adding thionyl chloride (40 mL, 0.54 mol). The stirred mixture was refluxed for 1 hour under nitrogen atmosphere, then concentrated in vacuo. The residue was triturated with diethyl ether to give a solid, and the liquid decanted; this process was repeated several times, until the decantate was almost colorless. The flask containing solid was evaporated to give a free-flowing, cocoa-colored solid (4.21 g, 46%). 1H-NMR (CD2Cl2): δ 13.1 (br s, 1 H), 3.97 (t, 3 H), 3.7 (m, 2 H), 3.33 (dd, 2 H), 2.81 (m, 2 H), 2.14-1.95 (m, 3 H).

reactant | 2-pyrrolidin-1-ylethanol | 0.05 mol, 6.24 g | N1(CCCC1)CCO | C6H13NO
reactant | thionyl chloride | 0.54 mol, 40 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-(2-chloroethyl)pyrrolidine hydrochloride | 4.21 g, 46% | Cl.ClCCN1CCCC1 | InChI=1S/C6H12ClN.ClH/c7-3-6-8-4-1-2-5-8;/h1-6H2;1H
